US07696184B2
(R)-2-Amino-4-(3-chloro-5-fluoro-4-pentyloxy-phenyl)-2-methyl-butan-1-ol Hydrochloride
[(R)-3-(3-Chloro-5-fluoro-4-pentyloxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester (10 mg) is dissolved in dioxane containing 4 M HCl (0.5 ml). After stirring at RT for 18 h the product is precipitated by the addition of Et2O to yield the title compound as white solid. MS (ESI+): m/z=319 (MH+).

reactant | [(R)-3-(3-Chloro-5-fluoro-4-pentyloxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester | 10 mg | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C(=C1)F)OCCCCC)Cl)(C)CO)=O | C21H33ClFNO4
solvent | dioxane | 4 M, 0.5 ml | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-4-(3-chloro-5-fluoro-4-pentyloxy-phenyl)-2-methyl-butan-1-ol Hydrochloride | Cl.N[C@@](CO)(CCC1=CC(=C(C(=C1)F)OCCCCC)Cl)C | InChI=1S/C16H25ClFNO2.ClH/c1-3-4-5-8-21-15-13(17)9-12(10-14(15)18)6-7-16(2,19)11-20;/h9-10,20H,3-8,11,19H2,1-2H3;1H/t16-;/m1./s1
